US06384115B1
(f) N-[5-hydroxy-1,5-dimethylhexyl]benzenesulphonamide (BG)
In this case, 6-amino-2-methyl-2-heptanol hydrochloride (381.6 g, i.e. 2.1 mol) is neutralized and reacted with 353 g of benzenesulphonyl chloride (2 mol) according to Example 1(a).

reactant | 6-amino-2-methyl-2-heptanol hydrochloride | 2.1 mol, 381.6 g | Cl.NC(CCCC(C)(O)C)C
reactant | benzenesulphonyl chloride | 2 mol, 353 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
product | N-[5-hydroxy-1,5-dimethylhexyl]benzenesulphonamide | OC(CCCC(C)NS(=O)(=O)C1=CC=CC=C1)(C)C | C14H23NO3S
